US07214686B2
Lithium diisopropylamide (LDA, 15 mmol) was generated at 0° C. by adding n-butyllithiumBuLi (6.4 mL, 2.3 M solution in hexane, 15 mmol) to a solution of diisopropylamine (2.27 mL, 16.0 mmol) in dry THF (13 mL). N-(diphenylmethylidene)-3-(aminomethyl)pyridine (3.62 g, 13.3 mmol) was dissolved in dry THF (13 mL) and the solution cooled to −78° C. under a nitrogen atmosphere. The LDA was then transferred via cannula to the solution of N-(diphenylmethylidene)-3-(aminomethyl)pyridine under a positive nitrogen atmosphere. The resulting purple suspension was stirred for a further 45 min, during which time the temperature of the reaction mixture was allowed to rise to −4° C. 3-Oxolanylmethyl methanesulfonate (2.64 g, 14.7 mmol) in THF (10 mL) was then added via syringe, and the reaction mixture was allowed to warm to ambient temperature, followed by additional stirring for 12 h. Hydrochloric acid (10% aq., 20 mL) was added and the reaction mixture was stirred for 20–30 min, followed by extraction with ethyl acetate (3×25 mL). The resulting aqueous solution was first made basic by adding solid K2CO3, then extracted with chloroform (3×25 mL). The combined chloroform extracts were dried (K2CO3) and filtered, followed by rotary evaporation of chloroform to yield 2-(3-oxolanyl)-1-(3-pyridyl)ethylamine as a diastereomeric (50:50) mixture (pale yellow oil, 2.03 g), which was used in the next step without further purification.

reactant | Lithium diisopropylamide | 15 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 16.0 mmol, 2.27 mL | C(C)(C)NC(C)C | C6H15N
reactant | 3-Oxolanylmethyl methanesulfonate | 14.7 mmol, 2.64 g | CS(=O)(=O)OCC1COCC1 | C6H12O4S
reactant | Hydrochloric acid | 20 mL | Cl | ClH
reactant | hexane | CCCCCC | C6H14
solvent | THF | 13 mL | C1CCOC1 | C4H8O
solvent | THF | 13 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(3-oxolanyl)-1-(3-pyridyl)ethylamine | O1CC(CC1)CC(C=1C=NC=CC1)N | C11H16N2O
